US05240925
b. Preparation of 2-(4-Chlorophenyl)-3-(3-pyridyl)propionitrile
This intermediate (64 g.) was prepared using the procedure described in Example 12b except using 80 g. (0.3 mole) of 2-(4-chlorophenyl)-3-(3-pyridyl)acrylonitrile, and 14 g. (0.36 mole) of sodium borohydride.

reactant | 2-(4-chlorophenyl)-3-(3-pyridyl)acrylonitrile | 0.3 mole | ClC1=CC=C(C=C1)C(C#N)=CC=1C=NC=CC1 | C14H9ClN2
reactant | sodium borohydride | 0.36 mole | [BH4-].[Na+]
product | 2-(4-Chlorophenyl)-3-(3-pyridyl)propionitrile | ClC1=CC=C(C=C1)C(C#N)CC=1C=NC=CC1 | C14H11ClN2
